US07598423B2
Synthesis of (S)-3-[[4-(4-Acetyl-3-hydroxy-2-propyl-phenylsulfanylmethyl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzonitrile
Stir a mixture of 1-(2-Hydroxy-4-mercapto-3-propyl-phenyl)-ethanone (250 mg, 1.18 mmol), (S)-3-[(4-Iodomethyl-phenyl)-(tetrahydro-pyran-2-yloxy)-methyl]-benzonitrile (515 mg, 1.18 mmol) and cesium carbonate (769 mg, 2.36 mmol) in 2-butanone (10 ml) at room temperature under argon for 24 hours. Pour the mixture into water (85 ml) and extract with ethyl acetate (3×25 ml). Combine the organic extracts and wash with water, brine, then dry over sodium sulfate, filter and concentrate. Purify the crude product via silica chromatography eluting with 1:4 ethyl acetate:hexanes to give the title compound (325 mg, 53%). MS (m/z) 514 (M−H).

reactant | 1-(2-Hydroxy-4-mercapto-3-propyl-phenyl)-ethanone | 1.18 mmol, 250 mg | OC1=C(C=CC(=C1CCC)S)C(C)=O | C11H14O2S
reactant | (S)-3-[(4-Iodomethyl-phenyl)-(tetrahydro-pyran-2-yloxy)-methyl]-benzonitrile | 1.18 mmol, 515 mg | ICC1=CC=C(C=C1)[C@@H](C=1C=C(C#N)C=CC1)OC1OCCCC1 | C20H20INO2
reactant | cesium carbonate | 2.36 mmol, 769 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | water | 85 ml | O | H2O
solvent | 2-butanone | 10 ml | CC(CC)=O | C4H8O
product | (S)-3-[[4-(4-Acetyl-3-hydroxy-2-propyl-phenylsulfanylmethyl)-phenyl]-(tetrahydro-pyran-2-yloxy)-methyl]-benzonitrile | 325 mg, 53% | C(C)(=O)C1=C(C(=C(C=C1)SCC1=CC=C(C=C1)[C@@H](C=1C=C(C#N)C=CC1)OC1OCCCC1)CCC)O | C31H33NO4S
